US04714764
(a) Preparation of 3-methyl-1,2-phenylenediamine
A solution of 4.56 (30 m mol) of 2-methyl-6-nitroaniline in 150 ml of methanol was hydrogenated at atmospheric pressure over 0.9 g of 5% Pd/C with Ishii's Catalytic Hydrogenation Apparatus with Magnetic Stirrer Model CHA-M. The catalyst was filtered off. The solvent was evaporated, and the residue was crystallized from petroleum ether to give 3.25 g (88.67%) as gray crystals.

reactant | 2-methyl-6-nitroaniline | CC1=C(N)C(=CC=C1)[N+](=O)[O-] | C7H8N2O2
solvent | methanol | 150 ml | CO | CH4O
catalyst | Pd/C | 0.9 g | [Pd] | Pd
product | 3-methyl-1,2-phenylenediamine | CC=1C(=C(C=CC1)N)N | C7H10N2
